US04562180
Ethyl-S-isopropylphosphonothioic Chloride
To a mixture of 326 g (2.0 moles) ethylphosphonothioic dichloride in 500 ml acetonitrile, a mixture of 152.3 g (2.0 moles) 2-propanethiol and 158.2 g (2.0 moles) pyridine were added over a period of 20 minutes. The reaction mixture was stirred overnight at room temperature and then heated at reflux for four hours, resulting in the formation of solids. The reaction mixture was cooled to room temperature and then filtered. The filtrate was combined with 500 ml hexane, washed twice with 75 ml water and then stripped to give 373 g of the aboveidentified product as a yellow oil.

reactant | ethylphosphonothioic dichloride | 2.0 moles, 326 g | C(C)P(=S)(Cl)Cl | C2H5Cl2PS
reactant | 2-propanethiol | 2.0 moles, 152.3 g | CC(C)S | C3H8S
reactant | pyridine | 2.0 moles, 158.2 g | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | Ethyl-S-isopropylphosphonothioic Chloride | 373 g | C(C)P(=SC(C)C)(Cl)Cl | C5H13Cl2PS
